US08022062B2
Use a method similar to the General Procedure 5-3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (272 mg, 0.64 mmol) with 4-(aminomethyl)benzophenone (prepared by following the procedure described in J. Biol. Chem. 1993, 268 (19), 14230) (270 mg, 1.3 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1, 17:3 and 4:1) to give 6-(4-benzoyl-benzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (300 mg, 96%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.64 mmol, 272 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(aminomethyl)benzophenone | NCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H13NO
product | 6-(4-benzoyl-benzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 300 mg, 96% | C(C1=CC=CC=C1)(=O)C1=CC=C(CNC2=C(C=CC=3CCN(CCC32)C(C(F)(F)F)=O)Cl)C=C1 | C26H22ClF3N2O2
